### ISSUE TITLE
RFC: Many things are reducibly defeq in Nat

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover/lean4#1994]
Many things are reducibly defeq in Nat in ways that one wouldn't expect from its Lean definition as an inductive type.  For example:
````lean
example : (3 : Int) * 5 = 5 * 3 := by with_reducible rfl
-- fails, as one would expect

example : (3 : Nat) * 5 = 5 * 3 := by with_reducible rfl
-- works!
````
Also:
```lean
example (a : Nat) : a * 1 = 0 + a := by rfl
-- works

example (a : Nat) : a * 1 = 0 + a := by with_reducible rfl
-- fails

example : 3 * 1 = 0 + 3 := by with_reducible rfl
-- works!
```

Probably these behaviours are a consequence of the [new internal representation](https://leanprover.github.io/lean4/doc/nat.html) for Nat, and maybe the devs consider this a feature not a bug.  But it leads to discrepancies between Nat and other types in tactic behaviour, which is a concern for teaching.  Is this something that could be changed?

**Comment by hrmacbeth** [comment]
On Zulip it [came up](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/dsimp.20only.20for.20universal.20cleanup) today that 
```lean
example : 3 * 1 = 0 + 3 := by dsimp only
```
works, and even
```lean
def testConfig : Lean.Meta.DSimp.Config where
  zeta       := false
  beta       := false
  eta        := false
  etaStruct  := .none
  iota       := false
  proj       := false
  decide     := false
  autoUnfold := false

example : 3 * 1 = 0 + 3 := by dsimp (config := testConfig) only
```
I'm guessing this is the same issue.  (It is again Nat-specific.)

**Comment by nomeata** [comment]
2½ years later I’d say we have grown used to the peculiars here, and even if not, it’s unlikely that we can change them easily. I’ll close this, at least until someone disagrees loudly.
